US07550495B2
Step E: Methyl (3-amino-4-{[(4,4-difluorocyclohexyl)methyl]amino}phenyl)carbamate
Following the same procedure as in Step D of Example 1 using methyl (4-{[(4,4-difluorocyclohexyl)methyl]amino}-3-nitrophenyl)carbamate (200 mg, 0.583 mmol) and a catalytic amount of 10% Pd/C in 20 mL of EtOAc. Yield: 185 mg (99%). MS (ESI) (M+H)+314.29.

reactant | methyl (4-{[(4,4-difluorocyclohexyl)methyl]amino}-3-nitrophenyl)carbamate | 0.583 mmol, 200 mg | FC1(CCC(CC1)CNC1=C(C=C(C=C1)NC(OC)=O)[N+](=O)[O-])F | C15H19F2N3O4
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | [Pd] | Pd
product | Methyl (3-amino-4-{[(4,4-difluorocyclohexyl)methyl]amino}phenyl)carbamate | NC=1C=C(C=CC1NCC1CCC(CC1)(F)F)NC(OC)=O | C15H21F2N3O2
